US07838675B2
i) 3-Oxopiperazine-1-sulfonamide
The subtitle compound was prepared according to the procedure outlined in Example 62 step i) using 2-oxopiperazine (0.5 g) and sulfamide (0.45 g) to give a beige solid. Yield: 0.83 g.

reactant | 2-oxopiperazine | 0.5 g | O=C1NCCNC1 | C4H8N2O
reactant | sulfamide | 0.45 g | S(=O)(=O)(N)N | H4N2O2S
product | 3-Oxopiperazine-1-sulfonamide | O=C1CN(CCN1)S(=O)(=O)N | C4H9N3O3S
